Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
hanging
 
Major Surgical or Invasive Procedure:
bronchoscopy
 
History of Present Illness:
Pt is a ___ who was 6 weeks post partum who was found in her 
home having hung herself.  EMS responded and cut her down.  She 
was initially apenic without vital signs, but after several 
minutes of CPR, she regained a pulse.  She was intubated and 
brought to ___.
 
Past Medical History:
depression
 
Social History:
___
Family History:
non contributatory
 
Physical Exam:
discharge: patient passed away
 
Brief Hospital Course:
The patient was admitted to the trauma surgery service in the 
trauma ICU.  She was intubated with a GCS of 4.  Her head CT was 
concerning for anoxic brain injury.  Over the next week her 
neurologic status did not improve.  At times she had spastic 
movement of her extremities and multiple EEGs were performed.  
The neurology consult service did not feel these movements were 
consistent with seizures.  
With time she developed ventillator associated pneumonia which 
was treated with bronchoscopy and antibiotics. Nutrition was 
provided via a daubhoff tube.
Multiple family meetings were help with the patient's husband 
and mother, social work, interpreters, the trauma team, and the 
neurology team.  Her neurologic status did not improve.
Ultimately the decision was made to make the patient CMO.  She 
was extubated and started on a morphine drip.  She died on 
___.
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
anoxic brain injury
ventillator associated pneumonia
 
Discharge Condition:
deceased
 
Discharge Instructions:
.
 
Followup Instructions:
___